US09260408B2
(rac)-N-(1-(5-Bromopyridin-3-yl)propyl)ethanesulfonamide
A flask was charged with 5-bromonicotinaldehyde (0.5 g, 2.69 mmol), ethanesulfonamide (0.367 g, 3.36 mmol) and toluene (25 mL), then titanium tetra-isopropoxide (1.53 g, 5.38 mmol) was added dropwise. The reaction mixture was heated to 110° C. over night and then concentrated in vacuo. The residue was dissolved in THF (25 mL) and cooled down to −40° C. A 3 M solution of ethylmagnesium bromide in ether (2.24 mL, 6.72 mmol) was added dropwise at this temperature and the resulting mixture was slowly warmed up to −20° C. and stirred for 2.5 h. The mixture was poured into a saturated NH4Cl solution (15 mL), the resulting suspension was filtered and the filtrate was extracted with DCM (2×50 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (0.5 g, 56%) as light yellow oil. MS: 307.1 and 308.9.

reactant | 5-bromonicotinaldehyde | 2.69 mmol, 0.5 g | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | ethanesulfonamide | 3.36 mmol, 0.367 g | C(C)S(=O)(=O)N | C2H7NO2S
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ether | 6.72 mmol, 2.24 mL | CCOCC | C4H10O
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
catalyst | titanium tetra-isopropoxide | 5.38 mmol, 1.53 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (rac)-N-(1-(5-Bromopyridin-3-yl)propyl)ethanesulfonamide | 0.5 g, 56% | BrC=1C=C(C=NC1)C(CC)NS(=O)(=O)CC | C10H15BrN2O2S
